US09062070B2
Step D: tert-butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate
6-Fluoro-2-methyl-3-(oxiran-2-yl)benzonitrile (12.0 g, 67.7 mmol) and (S)-4-N-BOC-2-hydroxymethylpiperazine (22.0 g. 102 mmol) were suspended in ethanol (100 mL) then heated in a microwave apparatus for 30 minutes at 150° C. The reaction mixture was cooled and evaporated dryness. The residue was purified by MPLC chromatography through a 330 g Redi-sep column eluting with 5% MeOH/95% EtOAc solvent system to yield the title compound. LC-MS: M+1=394.

reactant | 6-Fluoro-2-methyl-3-(oxiran-2-yl)benzonitrile | 67.7 mmol, 12.0 g | FC1=CC=C(C(=C1C#N)C)C1OC1 | C10H8FNO
reactant | (S)-4-N-BOC-2-hydroxymethylpiperazine | 102 mmol, 22.0 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)C | C20H28FN3O4
